US09334269B2
To a stirred solution of (9H-fluoren-9-yl)methyl 4-(chlorocarbonyl)piperidine-1-carboxylate (5 g, 13.6 mmol) in toluene at 0° C. was added TMS-diazomethane (30 mL). This reaction mixture was stirred at RT for 16 h. The reaction mixture was concentrated under reduced pressure to afford of (9H-fluoren-9-yl)methyl 4-(diazoacetyl)piperidine-1-carboxylate (5 g, 98%) as dark brown liquid.

reactant | (9H-fluoren-9-yl)methyl 4-(chlorocarbonyl)piperidine-1-carboxylate | 13.6 mmol, 5 g | ClC(=O)C1CCN(CC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C21H20ClNO3
reactant | TMS-diazomethane | 30 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (9H-fluoren-9-yl)methyl 4-(diazoacetyl)piperidine-1-carboxylate | 5 g, 98% | [N+](=[N-])=CC(=O)C1CCN(CC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C22H21N3O3
